US03946004
reaction of phenothiazine with 5-n-butyl-2-pyrrolidinone according to the procedure of Example 4 provides 10-[5-n-BUTYL-1-(5-n-BUTYL-1-PYRROLIN-2-YL)-2-PYRROLIN-2-YL]PHENOTHIAZINE.

reactant | phenothiazine | C1=CC=CC=2SC3=CC=CC=C3NC12 | C12H9NS
reactant | 5-n-butyl-2-pyrrolidinone | C(CCC)C1CCC(N1)=O | C8H15NO
product | 10-[5-n-BUTYL-1-(5-n-BUTYL-1-PYRROLIN-2-YL)-2-PYRROLIN-2-YL]PHENOTHIAZINE | C(CCC)C1CC=C(N1C1=NC(CC1)CCCC)N1C2=CC=CC=C2SC=2C=CC=CC12 | C28H35N3S
